US07842817B2
1,3-Dibenzyl-1,3-dihydrobenzoimidazol-2-ylideneamine
The title compound was prepared from 2-aminobenzimidazole and benzyl bromide by Procedure A. The title product was isolated by filtration and washed with acetonitrile and water to give the title compound as the hydrobromide salt (solid, mp>300° C.). MS(ES+) m/z 314 ([M+1]+, 100).

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1,3-Dibenzyl-1,3-dihydrobenzoimidazol-2-ylideneamine | C(C1=CC=CC=C1)N1C(N(C2=C1C=CC=C2)CC2=CC=CC=C2)=N | C21H19N3
